Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Disabling left greater than left claudication.
 
Major Surgical or Invasive Procedure:
___: Angioplasty and stenting of the left superficial 
femoral
artery with drug eluting stent. 

 
History of Present Illness:
___ year old woman with lifestyle limiting, left greater than 
right, calf and thigh claudication presents for angiogram and 
potential catheter based intervention. 
 
Past Medical History:
PAST MEDICAL HISTORY:  High cholesterol, hypothyroidism, 
hypertension.

PAST SURGICAL HISTORY:  Includes knee surgery, partial left hip
repair, total right hip repair
 
Physical Exam:
Temp: 98.3 PO BP: 109/62 R Lying HR: 62 RR: 16 O2
sat: 94% O2 delivery: RA
Gen: AAOx3 NAD comfortable
CV: NRRR
Resp: Breathing comfortably RA
Abd: Soft, benign without tenderness
Extrem: Without deformity; right groin hematoma and bruising is
stable without active ooze
Pulse: R: P/D/D/D   L: P/D/D/D
 
Pertinent Results:
___ 12:29PM BLOOD WBC-3.2* RBC-3.99 Hgb-12.0 Hct-35.9 
MCV-90 MCH-30.1 MCHC-33.4 RDW-13.5 RDWSD-44.5 Plt ___
___ 12:29PM BLOOD Plt ___ year old woman with lifestyle limiting, left greater than 
right, calf and thigh claudication presents for angiogram and 
potential catheter based intervention. 
She was brought to the angio suite and underwent angioplasty and 
stenting of the left superficial femoral artery with drug 
eluting stent. Post procedure ___ was significant for right 
groin hematoma, ultrasound duplex negative for pseudoaneurysm or 
AV fistula. Home medication regimen restarted POD 1. She is 
remain on ASA lifelong and Plavix for 3 month after drug eluting 
stent placement. 

On the day of discharge she was ambulatory ad lib, voiding qs 
and tolerating a regular diet.   Follow up has been arranged for 
one month with ultrasound duplex. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 10 mg PO QPM 
2. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
3. Thyroid 60 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
2.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*90 
Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Simvastatin 10 mg PO QPM  
5.  Thyroid 60 mg PO DAILY  
6.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Peripheral Arterial Disease

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,
It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital after a 
peripheral angiogram.   To do the test, a small puncture was 
made in one of your arteries.  The puncture site heals on its 
own: there are no stitches to remove.   You tolerated the 
procedure well and are now ready to be discharged from the 
hospital.   Please follow the recommendations below to ensure a 
speedy and uneventful recovery.

Peripheral Angiography
Puncture Site Care
For one week:
•Do not take a tub bath, go swimming or use a Jacuzzi or hot 
tub.
•Use only mild soap and water to gently clean the area around 
the puncture site. 
•Gently pat the puncture site dry after showering. 
•Do not use powders, lotions, or ointments in the area of the 
puncture site. 

You may remove the bandage and shower the day after the 
procedure.  You may leave the bandage off. 
You may have a small bruise around the puncture site.  This is 
normal and will go away one-two weeks. 

Activity 
For the first 48 hours: 
•Do not drive for 48 hours after the procedure
For the first week:
•Do not lift, push , pull or carry anything heavier than 10 
pounds
•Do not do any exercises or activity that causes you to hold 
your breath or bear down with abdominal muscles.   Take care not 
to put strain on your abdominal muscles when coughing, sneezing, 
or moving your bowels.

After one week:
•You may go back to all your regular activities, including 
sexual activity.  We suggest you begin your exercise program at 
half of your usual routine for the first few days.   You may 
then gradually work back to your full routine.
Medications:
Before you leave the hospital, you will be given a list of all 
the medicine you should take at home.  If a medication that you 
normally take is not on the list or a medication that you do not 
take is on the list please discuss it with the team!  

 
Followup Instructions:
___